US05883129
4-Bromo-6-fluoro-3-hydroxyanthranilic acid
4-Bromo-6-fluoro-3-hydroxy-2-nitrobenzoic acid (22 mg 0.78 mmol) was dissolved in EtOH (10 mL) and PtS2 (2 mg) was added. Hydrogenation at room temperature and at atmospheric pressure for 14 h followed by filtration and evaporation gave a crude product. Purification by flash chromatography (SiO2, toluene-EtOAc-HOAc) afforded the product (4 mg). 1H NMR (CD3OD): δ 6.44 (d, J=11.3 Hz, 1 H); MS (EI, 70 eV): m/z (rel. int.) 249/251 (M+, 93/90).

reactant | 4-Bromo-6-fluoro-3-hydroxy-2-nitrobenzoic acid | 0.78 mmol, 22 mg | BrC1=C(C(=C(C(=O)O)C(=C1)F)[N+](=O)[O-])O | C7H3BrFNO5
solvent | EtOH | 10 mL | CCO | C2H6O
product | 4-Bromo-6-fluoro-3-hydroxyanthranilic acid | 4 mg | BrC=1C(=C(C(C(=O)O)=C(C1)F)N)O | C7H5BrFNO3
